US07166598B2
A solution of 3-amino-5-(trifluoromethyl)benzoic acid (2.0 g) and 2,5-dimethoxytetrahydrofuran (1.52 ml) in a mixture of acetic acid (10 ml) and 1,4-dioxane (10 ml) was stirred at 100° C. for 2 hours. After cooling to room temperature, the mixture was concentrated and purified with column chromatography (silica gel, 50 ml, methanol:dichloromethane=10:90) to give crude solid. The solid was recrystallized from ethyl acetate (5.0 ml) and hexane (200 ml) to give 3-(pyrrol-1-yl)-5-(trifluoromethyl)-benzoic acid (1.72 g) as a powder.

reactant | 3-amino-5-(trifluoromethyl)benzoic acid | 2.0 g | NC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H6F3NO2
reactant | 2,5-dimethoxytetrahydrofuran | 1.52 ml | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(pyrrol-1-yl)-5-(trifluoromethyl)-benzoic acid | 1.72 g | N1(C=CC=C1)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C12H8F3NO2
